US05998433
d) Synthesis of methyl 4,5,6,7-tetrahydrofuro[2,3-c]pyridine-2-carboxylate
A solution of 0.285 g (1.050 mmol) of methyl 6-benzyl-4,5,6,7-tetrahydrofuro[2,3-c]pyridine-2-carboxylate in 30 ml of methanol was hydrogenated at room temperature at atmospheric pressure over 0.2 g of 10% palladium-carbon (50% wet) overnight. After the catalyst was filtered off, the filtrate was evaporated under reduced pressure to yield the desired product.

reactant | methyl 6-benzyl-4,5,6,7-tetrahydrofuro[2,3-c]pyridine-2-carboxylate | 1.050 mmol, 0.285 g | C(C1=CC=CC=C1)N1CC2=C(CC1)C=C(O2)C(=O)OC | C16H17NO3
solvent | methanol | 30 ml | CO | CH4O
catalyst | palladium-carbon | 0.2 g | [C].[Pd]
product | methyl 4,5,6,7-tetrahydrofuro[2,3-c]pyridine-2-carboxylate | O1C(=CC2=C1CNCC2)C(=O)OC | C9H11NO3
